*****************************************************************
* NXP PSMN9R0-25YLC
*
* Polarity N-Channel
* Ratings 25V/9.100000E-003OHMS/46A
*
* Date Created Mon Aug 29 07:11:53 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN9R0-25YLC DRAIN GATE SOURCE

LD DRAIN 5 5e-12
RLD2 DRAIN 5 0.0125663706143592
RLD1 5 4 1e-06
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 9e-10
RLS2 SOURCE 8 2.26194671058465
RLS1 8 7 0.00035

RDS 7 4 2500000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.00600832104875745 TC=0.00482666195742506,3.52995740723938E-06
RBD 9 4 0.00233768113119362 TC=0.00482666195742506,3.52995740723938E-06
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 160000000
CGS 2 6 6.00e-10
RG 1 2 2.32663376181753

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -16	657.04
+ -10	634.5
+ -5	617.9
+ -4	614.1
+ -3	610
+ -2	606
+ -1	599.8
+ -0.5	593.6
+ -0.2	593.6
+ -0.1	586
+ 0	417.875
+ 0.1	233.2
+ 0.2	216.96
+ 0.5	177.45
+ 1	138.9
+ 2	105.9
+ 3	91.6
+ 4	83.05
+ 5	77.3
+ 6	73.2
+ 8	67.7
+ 10	64.15
+ 12	61.4
+ 15	58.2
+ 20	54.5
+ 25	50.8



.MODEL MINT NMOS(Vto=2.06295206005928 Kp=1.015504e+002 Nfs=550000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=30 Ibv=2.500000E-004 Rs=1E-6 Is=4.36154317889993e-13
+ N=1 M=0.55 VJ=0.66 Fc=0.5 Cjo=7.2225e-10 Tt=1.998e-08)

.ENDS

